US07427613B2
(2-Chloro-3,6-difluorobenzyl)cyclopropylamine
Synthesized according to typical procedure J from 2-chloro-3,6-difluorobenzaldehyde and cyclopropylamine.

reactant | 2-chloro-3,6-difluorobenzaldehyde | ClC1=C(C=O)C(=CC=C1F)F | C7H3ClF2O
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | (2-Chloro-3,6-difluorobenzyl)cyclopropylamine | ClC1=C(CNC2CC2)C(=CC=C1F)F | C10H10ClF2N
